US09024051B2
N-triethylsilyl-N-benzyl-3-aminopropyltrimethoxysilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 26.2 g (0.1 mol) of N-triethylsilyl-N-benzyl-N-allylamine and 0.07 g of a toluene solution of platinum/1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (Pt concentration 3 wt %) and heated at 50° C. Once the internal temperature became steady, 12.2 g (0.1 mol) of trimethoxysilane was added dropwise over 1 hour. Stirring was continued at the temperature for a further 1 hour. The reaction solution was distilled, collecting 32.6 g of a fraction having a boiling point of 144-146° C./0.1 kPa.

reactant | N-triethylsilyl-N-benzyl-N-allylamine | 0.1 mol, 26.2 g | C(C)[Si](N(CC=C)CC1=CC=CC=C1)(CC)CC | C16H27NSi
reactant | trimethoxysilane | 0.1 mol, 12.2 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | platinum 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | [Pt].C(=C)[Si](O[Si](C)(C)C=C)(C)C
solvent | toluene | 0.07 g | C1(=CC=CC=C1)C | C7H8
product | N-triethylsilyl-N-benzyl-3-aminopropyltrimethoxysilane | C(C)[Si](N(CCC[Si](OC)(OC)OC)CC1=CC=CC=C1)(CC)CC | C19H37NO3Si2
